US09034900B2
Step 3: 5-[5-amino-2-(2,4-difluorophenoxy)phenyl]-4-fluoro-1-methylpyridin-2-one
A mixture of 5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoro-1-methylpyridin-2-one (90 mg, 0.24 mmol), ammonium chloride (26 mg, 0.48 mmol), iron powder (67 mg, 1.2 mmol) suspended in THF (500 μL), water (180 mL) and ethanol (500 mL) was heated to 100° C. using microwave irradiation (normal) for 3 h. The crude reaction mixture was filtered through a short plug of celite and the celite plug was washed with heated (50° C.) MeOH (˜10 mL). The resulting filtrate was concentrated in vacuo. The resulting residue was diluted with EtOAc (20 ml) and washed with saturated bicarbonate solution (aq), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford the desired product, 5-[5-amino-2-(2,4-difluorophenoxy)phenyl]-4-fluoro-1-methylpyridin-2-one (75 mg, 90%). LCMS (M+H)+=347. The material was carried forward without any further purification.

reactant | 5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoro-1-methylpyridin-2-one | 0.24 mmol, 90 mg | FC1=C(OC2=C(C=C(C=C2)[N+](=O)[O-])C=2C(=CC(N(C2)C)=O)F)C=CC(=C1)F | C18H11F3N2O4
reactant | ammonium chloride | 0.48 mmol, 26 mg | [Cl-].[NH4+]
reactant | water | 180 mL | O | H2O
reactant | ethanol | 500 mL | C(C)O | C2H6O
solvent | THF | 500 μL | C1CCOC1 | C4H8O
catalyst | iron | 1.2 mmol, 67 mg | [Fe] | Fe
product | 5-[5-amino-2-(2,4-difluorophenoxy)phenyl]-4-fluoro-1-methylpyridin-2-one | 75 mg, 90% | NC=1C=CC(=C(C1)C=1C(=CC(N(C1)C)=O)F)OC1=C(C=C(C=C1)F)F | C18H13F3N2O2
